US06579868B1
7) 3-[6-Amino-8-(3-fluorophenyl)-2-[2-(1-hydroxyhexyl)-1-ethynyl]-9H-9-purinyl]benzonitrile
3-{6-Chloro-8-(3-fluorophenyl)-2-[2-(1-hydroxycyclohexyl)-1-ethynyl]-9H-9-purinyl]benzonitrile (2.0 g) was suspended in 200 ml of a 20% ammonia/ethanol and reacted at 100° C. in an autoclave for 8 hours. The resulting mixture was cooled to room temperature, concentrated to dryness and purified by a silica gel column (40 g of silica gel). It was eluted with dichloromethane containing 5% of methanol. The fractions containing the aimed product were collected, concentrated to dryness, suspended in 100 ml of a mixed solvent of ethyl acetate and hexane (1:1) and the resulting product was collected by filtration and washed with hexane to give 1.4 g of the title compound. The yield was 73%.

reactant | 3-{6-Chloro-8-(3-fluorophenyl)-2-[2-(1-hydroxycyclohexyl)-1-ethynyl]-9H-9-purinyl]benzonitrile | 2.0 g | ClC1=C2N=C(N(C2=NC(=N1)C#CC1(CCCCC1)O)C=1C=C(C#N)C=CC1)C1=CC(=CC=C1)F | C26H19ClFN5O
reactant | ammonia ethanol | N.C(C)O
product | 3-[6-Amino-8-(3-fluorophenyl)-2-[2-(1-hydroxyhexyl)-1-ethynyl]-9H-9-purinyl]benzonitrile | 1.4 g, yield was 73% | NC1=C2N=C(N(C2=NC(=N1)C#CC(CCCCC)O)C=1C=C(C#N)C=CC1)C1=CC(=CC=C1)F | C26H23FN6O
